US04337253
Leete et al. [J. Org. Chem. 37, 4465-6 (1972)] shows the reaction of 2-(3-pyridinyl)-2-(4-morpholinyl)ethanenitrile with acrylonitrile to produce 4-cyano-4-(3-pyridinyl)-4-(4-morpholinyl)butanenitrile and its conversion by heating it with acetic acid, water and tetrahydrofuran to 4-oxo-4-(3-pyridinyl)butanenitrile.

reactant | 2-(3-pyridinyl)-2-(4-morpholinyl)ethanenitrile | N1=CC(=CC=C1)C(C#N)N1CCOCC1 | C11H13N3O
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 4-cyano-4-(3-pyridinyl)-4-(4-morpholinyl)butanenitrile | C(#N)C(CCC#N)(N1CCOCC1)C=1C=NC=CC1 | C14H16N4O
